US09278938B2
To a solution of anhydrous calcium chloride (4.55 g, 41.0 mmol) in ethanol (62.5 mL) was added sodium borohydride (3.11 g, 82.0 mmol) at −7° C., and the mixture was stirred at −7° C. for 30 min. To the reaction mixture were added dropwise a solution of ethyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate (10.0 g, 16.4 mmol) in tetrahydrofuran (80 mL), and tetrahydrofuran (20 mL) at −5° C. The reaction mixture was stirred at 5° C. for 8 hr, water (80 mL), 1 mol/L hydrochloric acid (82 mL) and ethyl acetate (200 mL) were added dropwise thereto at 5° C., and the mixture was stirred. To the separated organic layer was added 0.2 mol/L hydrochloric acid (82 mL) at 5° C., and the mixture was stirred, and adjusted to pH 7.5 with 0.5 mol/L aqueous sodium hydroxide solution at the same temperature. To the separated organic layer was added again 0.2 mol/L hydrochloric acid (82 mL) at 5° C., and the mixture was stirred, and adjusted to pH 7.5 with 0.5 mol/L aqueous sodium hydroxide solution at the same temperature. To the separated organic layer was added water (100 mL), and the mixture was adjusted to pH 9.5 with 0.5 mol/L aqueous sodium hydroxide solution. The separated organic layer was washed with 10 w/v % brine (100 mL). To the separated organic layer was added water (120 mL), and the mixture was stirred with heating to 60° C. for 4 hr. The separated organic layer was concentrated to the volume of about 38 mL at the same temperature under reduced pressure. To the residue was added ethyl acetate (80 mL), and the mixture was concentrated to the volume of about 38 mL under reduced pressure. These operations were repeated three times. To the residue was added ethyl acetate to adjust the volume to about 38 mL. Diisopropyl ether (75 mL) was added thereto, and the mixture was stirred with cooling to 5° C. The crystals were collected by filtration, and washed with a mixed solvent (30 mL) of diisopropyl ether/ethyl acetate (2:1, volume ratio). The obtained wet crystals were dried under reduced pressure to give 6-[(1S)-1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide (8.7 g, 15.3 mmol). yield 94%. enantiomeric excess: 94% ee.

reactant | calcium chloride | 41.0 mmol, 4.55 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 82.0 mmol, 3.11 g | [BH4-].[Na+]
reactant | ethyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate | 16.4 mmol, 10.0 g | O[C@](CC(=O)OCC)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C39H35N3O4
reactant | hydrochloric acid | 1 mol/L, 82 mL | Cl | ClH
reactant | hydrochloric acid | 0.2 mol/L, 82 mL | Cl | ClH
reactant | sodium hydroxide | 0.5 mol/L | [OH-].[Na+]
reactant | hydrochloric acid | 0.2 mol/L, 82 mL | Cl | ClH
reactant | sodium hydroxide | 0.5 mol/L | [OH-].[Na+]
reactant | sodium hydroxide | 0.5 mol/L | [OH-].[Na+]
solvent | ethanol | 62.5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 80 mL | O | H2O
product | 6-[(1S)-1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 15.3 mmol, 8.7 g, yield 94% | O[C@](CCO)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C37H33N3O3
